US06610846B1
A solution of triphenylphosphine (595 mg, 2.27 mmol) in methylene chloride (20 mL) was cooled to 0° C. and then treated with N-bromosuccinimide (457 mg, 2.57 mmol). The reaction mixture was stirred at 0° C. until it became homogeneous. The resulting light purple reaction mixture was then treated with 2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionic acid (500 mg, 1.51 mmol). The reaction mixture was stirred at 0° C. for 20 min and then allowed to warm to 25° C. where it was stirred for 30 min. The reaction mixture was then treated with 2-amino-5-bromothiazole monohydrobromide (589 mg, 2.27 mmol) and pyridine (0.37 mL, 4.53 mmol), and then the reaction mixture was stirred at 25° C. for 16 h. The reaction was then diluted with water (15 mL) and then extracted with methylene chloride (3×15 mL). The combined organic layers were dried over sodium sulfate, filtered, and concentrated in vacuo. Biotage chromatography (FLASH 40S, Silica, 55/45 hexanes/ethyl acetate) afforded N-(5-bromo-thiazol-2-yl)-2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionamide (375 mg, 51%) as a light green foam: [α]23589=−110.3° (c=0.068, chloroform); EI-HRMS m/e calcd for C18H20ClBrN2O3S2 (M+) 489.9787, found 489.9792.

reactant | triphenylphosphine | 2.27 mmol, 595 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 2.57 mmol, 457 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionic acid | 1.51 mmol, 500 mg | ClC=1C=C(C=CC1S(=O)(=O)C)[C@H](C(=O)O)CC1CCCC1 | C15H19ClO4S
reactant | 2-amino-5-bromothiazole monohydrobromide | 2.27 mmol, 589 mg | Br.NC=1SC(=CN1)Br
reactant | pyridine | 4.53 mmol, 0.37 mL | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | water | 15 mL | O | H2O
product | N-(5-bromo-thiazol-2-yl)-2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionamide | 375 mg, 51% | BrC1=CN=C(S1)NC([C@H](CC1CCCC1)C1=CC(=C(C=C1)S(=O)(=O)C)Cl)=O | C18H20BrClN2O3S2
